US06342511B1
Stage 14a: 4-(4-hydroxypiperidino)-tetrahydro-4H-thiopyran-4-carbonitrile
It is prepared from MgSO4 (7.2 g, 60 mmoles), DMA (2.62 g, 30 mmoles), 4-hydroxy-piperidine (3.03 g, 20 mmoles), tetrahydro-4H-thiopyran-4-one (2.32 g, 20 mmoles) and acetone cyanhydrin (1.7 g, 20 mmoles). After treatment of the reaction, a white solid is obtained (4.7 g) which is crystallized from anhydrous ether. In this way, white crystals are obtained (3.6 g, 79%). M.p.=79-81° C.

reactant | MgSO4 | 60 mmoles, 7.2 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | DMA | 30 mmoles, 2.62 g | CC(=O)N(C)C | C4H9NO
reactant | 4-hydroxy-piperidine | 20 mmoles, 3.03 g | OC1CCNCC1 | C5H11NO
reactant | tetrahydro-4H-thiopyran-4-one | 20 mmoles, 2.32 g | S1CCC(CC1)=O | C5H8OS
reactant | acetone cyanhydrin | 20 mmoles, 1.7 g | CC(C#N)(O)C | C4H7NO
product | 4-(4-hydroxypiperidino)-tetrahydro-4H-thiopyran-4-carbonitrile | OC1CCN(CC1)C1(CCSCC1)C#N | C11H18N2OS
